US07786155B2
Synthesis in analogy to Example 8 starting from 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one and 2-fluoro-benzoyl chloride to yield 2-fluoro-N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-benzamide. LC/MS at 254 nm; [M+H] 506; Rt 3.438 min.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C24H21N3O2
reactant | 2-fluoro-benzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 2-fluoro-N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-benzamide | FC1=C(C(=O)NC2=CC=C(C=C2)C(CN2C(=NC(C2=O)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O)C=CC=C1 | C31H24FN3O3
